US06809090B2
15.1) N-{4-[4-(4-nitrophenyl)butoxy]phenyl}-N-phenylamine
2.0 g (10.88 mmol) of 4-hydroxy-diphenylamine, 2.0 ml (12 mmol) of 4-(4-nitrophenyl)-1-butanol and 1.66 ml (12 mmol) of tributylphosphine are successively introduced into a flask containing 10 ml CH2Cl2. 1.90 ml (12 mmol) of diethylazodicarboxylate is then added dropwise and the whole is agitated at 20° C. for 16 hours. The solvent is evaporated off under vacuum and the residue is purified on a silica column (eluent: heptane/AcOEt: 100/0 to 80/20). The expected product is obtained in the form of a dark red oil with a yield of 35%.

reactant | 4-(4-nitrophenyl)-1-butanol | 12 mmol, 2.0 ml | [N+](=O)([O-])C1=CC=C(C=C1)CCCCO | C10H13NO3
reactant | tributylphosphine | 12 mmol, 1.66 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | diethylazodicarboxylate | 12 mmol, 1.90 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N-{4-[4-(4-nitrophenyl)butoxy]phenyl}-N-phenylamine | yield of 35% | [N+](=O)([O-])C1=CC=C(C=C1)CCCCOC1=CC=C(C=C1)NC1=CC=CC=C1 | C22H22N2O3
